US06503949B1
Step 1: trans-4-[(4-tert-Butylcyclohexylamino)methyl]benzoic Acid Methyl Ester
trans-4-[(4-tert-Butylcyclohexylimino)methyl]benzoic acid methyl ester (21.0 g, 69.2 mmol) was suspended in methanol (300 mL), and acetic acid (50 mL) was added. To the resulting clear solution was added sodium cyanoborohydride (3.5 g, 55.5 mmol), and the mixture was stirred at ambient temperature for 30 min. The reaction volume was then reduced to one third by rotary evaporation, and ethyl acetate (500 mL) was added. The organic phase was washed with sodium carbonate solution (5%, 500 mL), and dried with Na2SO4. The solvent was removed by rotary evaporation to leave the title material as a white crystalline solid sufficiently pure for further reactions. Yield: 21.1 g (100%).

reactant | trans-4-[(4-tert-Butylcyclohexylimino)methyl]benzoic acid methyl ester | 69.2 mmol, 21.0 g | COC(C1=CC=C(C=C1)C=N[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C19H27NO2
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 55.5 mmol, 3.5 g | C(#N)[BH3-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
product | trans-4-[(4-tert-Butylcyclohexylamino)methyl]benzoic Acid Methyl Ester | COC(C1=CC=C(C=C1)CN[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C19H29NO2
